US04477448
(b) 4-Dimethylaminomethylene-2-(methoxymethoxyimino)acetoacetic acid methyl ester
6.4 g of 2-(methoxymethoxyimino)acetoacetic acid methyl ester in 30 of toluene are heated with 9 ml of N,N-dimethylformamidedimethylacetal for 5 hours at boiling. After cooling, the semi-crystalline residue is dissolved by heating in diisopropylether, the mixture is filtered. The precipitate obtained after cooling is filtered and dried to obtain the heading compound, m.p. 99°-100°.

reactant | 2-(methoxymethoxyimino)acetoacetic acid methyl ester | 6.4 g | COC(C(C(=O)C)=NOCOC)=O | C7H11NO5
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamidedimethylacetal | 9 ml | CN(C)C(OC)OC | C5H13NO2
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | 4-Dimethylaminomethylene-2-(methoxymethoxyimino)acetoacetic acid methyl ester | COC(C(C(=O)C=CN(C)C)=NOCOC)=O | C10H16N2O5
